US06943183B2
2. 2-[2-((S)-2-Imidazol-1-yl-1-phenyl-ethoxy)-5-oxo-5,6,7,8-tetrahydro-naphthalen-1-ylmethyl]-isoindole-1,3-dione
To a slurry of 2-(2-Hydroxy-5-oxo-5,6,7,8-tetrahydro-naphthalen-1-ylmethyl)-isoindole-1,3-dione (862 mg, 2.68 mmol) in THF (17 mL) was added ®-2-imidazol-1-yl-1-phenyl-ethanol (606 mg, 3.22 mmol) and triphenylphospine (846 mg, 3.22 mmol). After 15 min, diethylazodicarboxylate (0.51 mL, 3.22 mmol) was added and the reaction became homogenous. The reaction was stirred for 2 days and concentrated to give a reddish-brown foam. Purification by chromatography (10-20% acetone/CH2Cl2 then 5% MeOH/CH2Cl2) afforded the title compound as a light brown foam (1.15 g, 2.35 mmol, 87%). The structure was confirmed by NMR and mass spectrometry. MS m/z 492 (M++H).

reactant | 2-(2-Hydroxy-5-oxo-5,6,7,8-tetrahydro-naphthalen-1-ylmethyl)-isoindole-1,3-dione | 2.68 mmol, 862 mg | OC1=C(C=2CCCC(C2C=C1)=O)CN1C(C2=CC=CC=C2C1=O)=O | C19H15NO4
reactant | 2-imidazol-1-yl-1-phenyl-ethanol | 3.22 mmol, 606 mg | N1(C=NC=C1)CC(O)C1=CC=CC=C1 | C11H12N2O
reactant | triphenylphospine | 3.22 mmol, 846 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 3.22 mmol, 0.51 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 17 mL | C1CCOC1 | C4H8O
solvent | MeOH CH2Cl2 | CO.C(Cl)Cl
product | 2-[2-((S)-2-Imidazol-1-yl-1-phenyl-ethoxy)-5-oxo-5,6,7,8-tetrahydro-naphthalen-1-ylmethyl]-isoindole-1,3-dione | 2.35 mmol, 1.15 g, 87% | N1(C=NC=C1)C[C@@H](OC1=C(C=2CCCC(C2C=C1)=O)CN1C(C2=CC=CC=C2C1=O)=O)C1=CC=CC=C1 | C30H25N3O4
